US09238640B2
To a solution of N-[4-formyl-2-(4-hydroxy-but-1-ynyl)-phenyl]-acetamide (0.85 g, approximately 2.80 mmol) in THF (20 mL) was added a THF solution of TBAF (6.0 mL, 6.0 mmol) and the reaction mixture was stirred at reflux for 36 hours under nitrogen and cooled to room temperature. Solvent was evaporated and the residue was taken in ethyl acetate (200 mL). The organic phase was washed with water (2×100 mL), brine (100 mL) and dried over anhydrous Na2SO4. Solvent was evaporated; crude compound was purified by simpliflash system (50% ethyl acetate in hexanes as eluent) to give 2-(2-hydroxy-ethyl)-1H-indole-5-carbaldehyde as yellow solid. Yield: 0.31 g (58% for two steps).

reactant | N-[4-formyl-2-(4-hydroxy-but-1-ynyl)-phenyl]-acetamide | approximately 2.80 mmol, 0.85 g | C(=O)C1=CC(=C(C=C1)NC(C)=O)C#CCCO | C13H13NO3
reactant | TBAF | 6.0 mmol, 6.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2-hydroxy-ethyl)-1H-indole-5-carbaldehyde | OCCC=1NC2=CC=C(C=C2C1)C=O | C11H11NO2
